US04220647
A mixture of 1-(N-benzyloxycarbonylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (5.3 g), conc. hydrochloric acid (6 ml) and acetic acid (6 ml) was refluxed for 1 hour and 20 minutes. The reaction mixture was cooled and concentrated under reduced pressure. The residue was crystallized by adding methanol and acetone. The crystals were collected by filtration, washed with a mixture of methanol and acetone and recrystallized twice from a mixture of water, methanol and acetone to give 1-aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride (1.2 g), mp 142° to 147° C. (dec).

reactant | 1-(N-benzyloxycarbonylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 5.3 g | Cl.C(C1=CC=CC=C1)OC(=O)NCC1NCCC2=CC(=C(C=C12)O)O
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 1.2 g | Cl.Cl.NCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C10H14N2O2.2ClH/c11-5-8-7-4-10(14)9(13)3-6(7)1-2-12-8;;/h3-4,8,12-14H,1-2,5,11H2;2*1H
